US06562828B1
4-Allyl-4-cyanopiperidine-1-carboxylic Acid tert-Butyl Ester
To a solution of 2M lithium diisopropylamide-tetrahydrofuran solution (9.96 ml) in tetrahydrofuran (20 ml) was dropwise added a solution of 4-cyanopiperidine-1-carboxylic acid tert-butyl ester (3.5 g) in tetrahydrofuran (15 ml) at −78° C. and under argon atmosphere, and the mixture was stirred at room temperature for 30 min. Then, allyl bromide (2.15 ml) was added at −78° C., and the mixture was stirred at the same temperature for 30 min and at room temperature for 1 hour. After completion of the reaction, 10% aqueous citric acid was added and the mixture was extracted with diethyl ether. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) and dried under reduced pressure to give the title compound (3.5 g).

reactant | lithium diisopropylamide tetrahydrofuran | 2M, 9.96 ml | C(C)(C)[N-]C(C)C.[Li+].O1CCCC1
reactant | 4-cyanopiperidine-1-carboxylic acid tert-butyl ester | 3.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#N | C11H18N2O2
reactant | allyl bromide | 2.15 ml | C(C=C)Br | C3H5Br
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-Allyl-4-cyanopiperidine-1-carboxylic Acid tert-Butyl Ester | 3.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)CC=C | C14H22N2O2
